US06590118B1
N-{2-[3,4-Bis-(1-benzyl-1H-tetrazol-5-yl)phenoxy]phenyl}-3-nitrobenzamide (Compound 168)
2-[3,4-Bis-(1-benzyl-1H-tetrazol-5-yl)phenoxy]phenylamine (37 mg, 0.07 mmol) and TEA (19 mg, 0.18 mmol) were mixed in acetone (10 ml), and 3-nitrobenzoyl chloride (15 mg, 0.08 mmol) was added. The reaction mixture was stirred for 120 hours at room temperature. The reaction mixture was evaporated in vacuo to an oil. The oil was purified on a silica column with methylene chloride/methanol (39:1) as eluent. The title compound was isolated as yellow oil (yield: 30 mg (62%). 1H-NMR (CDCl3 in ppm): 5.6 (4H,2xs); 7.0 (1H,d,d); 7.15 (1H,d,d); 7.2 (1H,d,d); 7.25-7.4 (11H,m); 7.6 (1H,d,d); 7.73 (1H,d); 7.9 (1H,d); 8.1 (1H,d,d); 8.35 (1H,d,d); 8.45 (1H,broad s); 8.55 (1H,d,d); 8.7 (1H,d,d).

reactant | 2-[3,4-Bis-(1-benzyl-1H-tetrazol-5-yl)phenoxy]phenylamine | 0.07 mmol, 37 mg | C(C1=CC=CC=C1)N1N=NN=C1C=1C=C(OC2=C(C=CC=C2)N)C=CC1C1=NN=NN1CC1=CC=CC=C1 | C28H23N9O
reactant | 3-nitrobenzoyl chloride | 0.08 mmol, 15 mg | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | N-{2-[3,4-Bis-(1-benzyl-1H-tetrazol-5-yl)phenoxy]phenyl}-3-nitrobenzamide | C(C1=CC=CC=C1)N1N=NN=C1C=1C=C(OC2=C(C=CC=C2)NC(C2=CC(=CC=C2)[N+](=O)[O-])=O)C=CC1C1=NN=NN1CC1=CC=CC=C1 | C35H26N10O4
